US04806145
To a stirred mixture of 2.0 g (0.0065 mole) of 1-(2,4-dichloro-5-hydroxyphenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one and 0.91 g (0.0065 mole) of ethyl chlorofluoroacetate in 50 mL of ethanol was added a solution of 0.15 g (0.0065 mole) of sodium in 5 mL of ethanol. The reaction mixture was heated at reflux for 34 hours. The mixture was cooled, and the solvent was removed by evaporation under reduced pressure, leaving a residue. This residue was dissolved in diethyl ether, and the solution was washed first with water, followed by an aqueous 10% sodium hydroxide solution. The organic phase was dried over anhydrous magnesium sulfate, then filtered. The filtrate was evaporated under reduced pressure to yield 0.95 g of ethyl [2,4-dichloro-5-(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenoxy]fluroacetate as an oil, Compound 51.

reactant | 1-(2,4-dichloro-5-hydroxyphenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 0.0065 mole, 2.0 g | ClC1=C(C=C(C(=C1)Cl)O)N1N=C(N(C1=O)C(F)F)C | C10H7Cl2F2N3O2
reactant | ethyl chlorofluoroacetate | 0.0065 mole, 0.91 g | ClC(C(=O)OCC)F | C4H6ClFO2
reactant | sodium | 0.0065 mole, 0.15 g | [Na] | Na
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | ethyl [2,4-dichloro-5-(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenoxy]fluroacetate | 0.95 g | ClC1=C(OC(C(=O)OCC)F)C=C(C(=C1)Cl)N1N=C(N(C1=O)C(F)F)C | C14H12Cl2F3N3O4
